US09085555B2
B. (3-Carbamoyl-6-methoxy-indol-1-yl)-acetic acid tert-butyl ester
To a mixture of 1-tert-butoxycarbonylmethyl-6-methoxy-1H-indole-3-carboxylic acid (500 mg, 1.28 mmol) in DMF (6 mL) were added successively NH4Cl (137 mg, 2.55 mmol), HBTU (1.21 g, 3.19 mmol) and DIPEA (0.90 mL, 5.11 mmol), and stirring was continued at RT for 16 h. Additional aliquots of NH4Cl (2 equiv) and DIPEA (4 equiv) were added to the reaction mixture. After stirring for 16 h, water was added and the aqueous layer was extracted repeatedly with EtOAc. The combined organics were washed with saturated aqueous NaHCO3 solution and brine, dried (phase separator) and concentrated in vacuo. Purification by preparative HPLC (Macherey Nagel, VP250/40, C18 nucleosil 100-10, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) and lyophilization of the purified fractions afforded the title compound as a beige solid. MS: 305 [M+H]+, 609 [2M+H]+; tR (HPLC conditions c): 4.26 min.

reactant | 1-tert-butoxycarbonylmethyl-6-methoxy-1H-indole-3-carboxylic acid | 1.28 mmol, 500 mg | C(C)(C)(C)OC(=O)CN1C=C(C2=CC=C(C=C12)OC)C(=O)O | C16H19NO5
reactant | NH4Cl | 2.55 mmol, 137 mg | [NH4+].[Cl-]
reactant | HBTU | 3.19 mmol, 1.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 5.11 mmol, 0.90 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 2 equiv | [NH4+].[Cl-]
reactant | DIPEA | 4 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (3-Carbamoyl-6-methoxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OC)C(N)=O)=O | C16H20N2O4
